US07435815B2
2-[(2-Chloro-benzenesulfonyl)-p-tolyl-amino]-N,N-diethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, p-toluidine and 2-chloro-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 2-chloro-benzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 2-[(2-Chloro-benzenesulfonyl)-p-tolyl-amino]-N,N-diethyl-acetamide | ClC1=C(C=CC=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C1=CC=C(C=C1)C | C19H23ClN2O3S
